US05622954
A stirring mixture of 5.4 grams (0.136 mole) of lithium aluminum hydride in 300 mL of diethyl ether is cooled in an ice-water bath, and a solution of 45.0 grams (0.226 mole) of 2-methyl-2-(4-chlorophenyl)propanoic acid in 300 mL of diethyl ether is added dropwise during a one hour period. Upon completion of addition, the reaction mixture is allowed to warm to ambient temperature where it is stirred for about 18 hours. After this time the reaction mixture is cooled in an ice-water bath, and the reaction is quenched with the careful dropwise addition of water. Upon completion of addition, the reaction mixture is made basic with the slow addition of aqueous 10% sodium hydroxide. The mixture is then made acidic with aqueous 2N hydrochloric acid. The organic layer is separated and dried with magnesium sulfate. The mixture is filtered and concentrated under reduced pressure, yielding 41.7 grams of 2-methyl-2-(4-chlorophenyl)propanol. The NMR spectrum is consistent with the proposed structure.

reactant | lithium aluminum hydride | 0.136 mole, 5.4 grams | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-methyl-2-(4-chlorophenyl)propanoic acid | 0.226 mole, 45.0 grams | CC(C(=O)O)(C)C1=CC=C(C=C1)Cl | C10H11ClO2
solvent | diethyl ether | 300 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 300 mL | C(C)OCC | C4H10O
product | 2-methyl-2-(4-chlorophenyl)propanol | 41.7 grams | CC(CO)(C)C1=CC=C(C=C1)Cl | C10H13ClO
